### PR TITLE
add a hierarchy of structures to measure.v

### PR DESCRIPTION
**Pull request by affeldt-aist**
- ~based on PR #273~ has been merged
- introduce dependency to hierarchy-builder @CohenCyril 
- ~before merging: check/complete the changelog~

### CODE REVIEW

File: theories/measure.v [hunk 1]
```diff
@@ -23,153 +43,456 @@ Import Order.TTheory GRing.Theory Num.Def Num.Theory.
...
+    semiRingOfSets_diff_fsets_disjoint.
+
+HB.instance T T_isSemiRingOfSets.
+
+Definition T_isRingOfSets : RingOfSets_from_semiRingOfSets T :=
+  RingOfSets_from_semiRingOfSets.Build T measurableU.
+
+HB.instance T T_isRingOfSets.
+
+HB.end.*)
```
Comment (CohenCyril) [inline theories/measure.v:201]: This can be removed I think.

File: theories/measure.v [hunk 2]
```diff
@@ -23,153 +43,396 @@ Import Order.TTheory GRing.Theory Num.Def Num.Theory.
...
 
-Lemma measurableI A B : measurable A -> measurable B -> measurable (A `&` B).
+Lemma measurable_bigcup_ord (n : nat) (U : 'I_n -> set T) :
+  (forall i : 'I_n, (i < n)%N -> measurable (U i)) ->
+  measurable (\big[setU/set0]_(i < n) (U i)).
 Proof.
-move=> mA mB; rewrite -(setCK A) -(setCK B) -setCU; apply measurableC.
-by apply/measurableU; apply/measurableC.
+move=> nU; rewrite -big_enum /=.
+by apply: measurable_bigcup_seq => i _; exact: nU.
```
Comment (CohenCyril) [inline theories/measure.v:199]: Do not do two cases!
```coq
Lemma bigcup_measurable I (r : seq I) (P : {pred I}) (F : I -> set T) :
￼  (forall i, P i -> measurable (F i)) -> measurable (\big[setU/set0]_(i <- r | P i) (F i)).
```
covers every use case (in possible combination with `big_seq_cond` as usual.

File: theories/measure.v [hunk 3]
```diff
@@ -23,153 +43,396 @@ Import Order.TTheory GRing.Theory Num.Def Num.Theory.
...
    exact: ltn_ord.
 by rewrite IHn // [in RHS]big_ord_recr.
 Qed.
 
+End semi_additivity.
+
+Section additivity.
+Variables (R : numFieldType) (T : ringOfSetsType) (mu : set T -> {ereal R}).
+
+Lemma measurable_bigsetU I r (P : pred I) (F : I -> set T) :
```
Comment (CohenCyril) [inline theories/measure.v:291]: Isn't it the same as `bigsetU_measurable` before?

File: theories/measure.v (hunk 2 above)
Comment (CohenCyril) [reply theories/measure.v:199]: Isn't it the same as (the misnamed) `measurable_bigsetU` below?

File: theories/measure.v [hunk 4]
```diff
@@ -23,153 +43,396 @@ Import Order.TTheory GRing.Theory Num.Def Num.Theory.
...
+
+Lemma additive2P : mu set0 = 0%:E -> additive mu <-> additive2 mu.
+Proof. by rewrite -semi_additive2E -semi_additiveE; exact/semi_additive2P. Qed.
+
 End additivity.
 
-Lemma sigma_additive_implies_additive
-  (R : realFieldType) (X : measurableType) (mu : set X -> {ereal R}) :
-  mu set0 = 0%:E -> sigma_additive mu -> additive mu.
+Lemma semi_sigma_additive_implies_additive
```
Comment (CohenCyril) [inline theories/measure.v:315]:
```suggestion
Lemma semi_sigma_additive_is_additive
```

File: theories/measure.v [hunk 5]
```diff
@@ -23,153 +43,396 @@ Import Order.TTheory GRing.Theory Num.Def Num.Theory.
...
 
+Lemma semi_sigma_additiveE
+  (R : numFieldType) (X : measurableType) (mu : set X -> {ereal R}) :
+  semi_sigma_additive mu = sigma_additive mu.
+Proof.
+rewrite propeqE; split=> [amu A mA tA|amu A mA tA mbigcupA]; last exact: amu.
+by apply: amu => //; exact: measurable_bigcup.
+Qed.
+
+Lemma sigma_additive_implies_additive
```
Comment (CohenCyril) [inline theories/measure.v:344]:
```suggestion
Lemma sigma_additive_is_additive
```

File: theories/measure.v [hunk 6]
```diff
@@ -396,3 +678,130 @@ Qed.
...
+Variables (phUV : phant (set T -> {ereal R})) (f g : set T -> {ereal R}).
+Variable (cF : map phUV).
+Definition class := let: Pack _ c as cF' := cF return axioms cF' in c.
+Definition clone fA of phant_id g (apply cF) & phant_id fA class :=
+  @Pack phUV f fA.
+
+End ClassDef.
+
+Module Exports.
+Notation is_outer_measure f := (axioms f).
```
Comment (CohenCyril) [inline theories/measure.v:752]:
```suggestion
Notation outer_measure f := (axioms f).
```

File: theories/measure.v [hunk 7]
```diff
@@ -23,153 +43,396 @@ Import Order.TTheory GRing.Theory Num.Def Num.Theory.
...
+Variables (phUV : phant (set T -> {ereal R})) (f g : set T -> {ereal R}).
+Variable (cF : map phUV).
+Definition class := let: Pack _ c as cF' := cF return axioms cF' in c.
+Definition clone fA of phant_id g (apply cF) & phant_id fA class :=
+  @Pack phUV f fA.
+
+End ClassDef.
+
+Module Exports.
+Notation is_additive_measure f := (axioms f).
```
Comment (CohenCyril) [inline theories/measure.v:375]:
```suggestion
Notation additive_measure f := (axioms f).
```

File: theories/measure.v [hunk 8]
```diff
@@ -199,40 +462,49 @@ End Measure.
...
-Variables (R : realFieldType) (X : measurableType).
-Variable (mu : {measure set X -> {ereal R}}).
+Section measure_is_additive_measure.
+Variables (R : realFieldType) (T : semiRingOfSetsType)
+  (mu : {measure set T -> {ereal R}}).
 
-Lemma measure_additive : additive mu.
-Proof. by apply: sigma_additive_implies_additive. Qed.
-Hint Resolve measure_additive : core.
+Lemma measure_is_additive_measure : is_additive_measure mu.
```
Comment (CohenCyril) [inline theories/measure.v:492]:
```suggestion
Lemma measure_is_additive_measure : additive_measure mu.
```

**Review by CohenCyril — COMMENTED** [review]
Uniformise naming of predicate on "measure"-like functions (such as `additive2`, `semi_additive`, `measure`, etc)
